US04515786
Methyl 3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride
3-Methylbutanal (2.62 ml) and sodium cyanoborohydride (306 mg) were added to a solution of methyl 11α-amino-3α-hydroxy-5α-androstane-17β-carboxylate (5.77 g) in ethanol (130 ml) and after 18 h sodium borohydride (0.7 g) was added. After a further 15 minutes water (350 ml) was added and the mixture was extracted with ether (×2). The extract was washed with water, dried (Na2SO4) and evaporated to leave a foam which was dissolved in ethyl acetate (200 ml). Concentrated hydrochloric acid solution (4 ml) was added to the stirred solution and the mixture was diluted with ether (200 ml). The solid formed was collected by filtration, dried and stirred with ethyl acetate (100 ml) for 0.5 h. The solid was collected and dried to give the title compound (4.82 g) m.p. dec 230°-300° C., [α]D +30°.

reactant | 3-Methylbutanal | 2.62 ml | CC(CC=O)C | C5H10O
reactant | sodium cyanoborohydride | 306 mg | C(#N)[BH3-].[Na+]
reactant | methyl 11α-amino-3α-hydroxy-5α-androstane-17β-carboxylate | 5.77 g | N[C@H]1[C@@H]2[C@]3(CC[C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)O)C | C21H35NO3
reactant | sodium borohydride | 0.7 g | [BH4-].[Na+]
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | 350 ml | O | H2O
product | Methyl 3α-hydroxy-11α-(3-methylbutylamino)-5α-androstane-17β-carboxylate hydrochloride | 4.82 g | Cl.O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(CC1)C)NCCC(C)C)C(=O)OC | InChI=1S/C26H45NO3.ClH/c1-16(2)11-13-27-22-15-26(4)20(8-9-21(26)24(29)30-5)19-7-6-17-14-18(28)10-12-25(17,3)23(19)22;/h16-23,27-28H,6-15H2,1-5H3;1H/t17-,18+,19-,20-,21+,22+,23+,25-,26-;/m0./s1
